************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE555
* Top Cell Name: INV
* View Name:     schematic
* Netlisted on:  Dec  4 16:39:14 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE555
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 OUT IN VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS

